US08247429B2
(5-fluoro-2-methyl-6,7-dihydrocyclopenta [e] indazol-8(2H)-ylidene) acetonitrile
To a suspension of 60% sodium hydride (59.0 mg, 1.48 mmol) in tetrahydrofuran (8 mL) was added diethyl cyanomethylphosphonate (260 μL, 1.60 mmol) at room temperature, and the mixture was stirred for 15 min. A suspension of 5-fluoro-2-methyl-6,7-dihydrocyclopenta [e] indazol-8(2H)-one (252 mg, 1.23 mmol) in tetrahydrofuran (4 mL) was added thereto, and the mixture was stirred at room temperature for 4 hr. Saturated aqueous ammonium chloride solution was added to the reaction solution, and the mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained crystals were washed with diisopropyl ether to give the title compound (178 mg, yield 64%).

reactant | sodium hydride | 1.48 mmol, 59.0 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 1.60 mmol, 260 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 5-fluoro-2-methyl-6,7-dihydrocyclopenta [e] indazol-8(2H)-one | 1.23 mmol, 252 mg | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=O | C11H9FN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-fluoro-2-methyl-6,7-dihydrocyclopenta [e] indazol-8(2H)-ylidene) acetonitrile | 178 mg, yield 64% | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CC#N | C13H10FN3
